US07709500B2
7-(Chlorosulfonyl)-1-oxo-1,2-dihydroisoquinoline-4-carboxylic acid (1 g) was added to azetidine (0.7 ml) and diisopropylethylamine (0.4 ml) in tetrahydrofuran (5 ml) and acetonitrile (5 ml) and the mixture was stirred for 72 h then evaporated. The solid was crystallised from methanol then hydrochloric acid was added to acidify the mixture, which was filtered to yield 7-(azetidin-1-ylsulfonyl)-1-oxo-1,2-dihydroisoquinoline-4-carboxylic acid as a white solid.

reactant | 7-(Chlorosulfonyl)-1-oxo-1,2-dihydroisoquinoline-4-carboxylic acid | 1 g | ClS(=O)(=O)C1=CC=C2C(=CNC(C2=C1)=O)C(=O)O | C10H6ClNO5S
reactant | azetidine | 0.7 ml | N1CCC1 | C3H7N
reactant | diisopropylethylamine | 0.4 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 7-(azetidin-1-ylsulfonyl)-1-oxo-1,2-dihydroisoquinoline-4-carboxylic acid | N1(CCC1)S(=O)(=O)C1=CC=C2C(=CNC(C2=C1)=O)C(=O)O | C13H12N2O5S
